US04149848
1st Stage: Preparation of 2-chloro-4-nitro-N-tetrahydrofurfurylaniline
A mixture of 0.3 mol (57.6 g) of 3,4-dichloronitrobenzene and 1 mol (101 g) of tetrahydrofurfurylamine is heated in an oil bath. When the temperature of the reaction medium reaches 110° C., the reaction starts and the temperature rises rapidly to 160° C. and is maintained for a certain time without external heating. When the temperature falls, the reaction medium is heated for 30 minutes in an oil bath at 150° C. and is then poured into 500 ml of ice-cooled water. The expected product initially precipitates in the form of an oil which rapidly crystallises. After it has been filtered off, washed with water, recrystallised and dried in vacuo, the product melts at 70° C.

reactant | 3,4-dichloronitrobenzene | 0.3 mol, 57.6 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | tetrahydrofurfurylamine | 1 mol, 101 g | C(C1CCCO1)N | C5H11NO
solvent | water | O | H2O
product | 2-chloro-4-nitro-N-tetrahydrofurfurylaniline | ClC1=C(NCC2CCCO2)C=CC(=C1)[N+](=O)[O-] | C11H13ClN2O3
